US09126998B2
rac-2-Amino-3-(benzyloxy)-2-methylpropionitrile
5.07 g (27.79 mmol) of 1-(benzyloxy)acetone were initially charged in 55.6 ml of 2 N aqueous ammonia in methanol, 1.53 g (31.12 mmol) of sodium cyanide and 3.71 g (31.12 mmol) of ammonium chloride were added and the mixture was heated under reflux for 2 h. Another 27.4 ml of 2 N aqueous ammonia in methanol were then added, and the reaction mixture was stirred under reflux for 2 h. The reaction solution was cooled and diluted with 90 ml of dichloromethane. The solid obtained was filtered off and the filtrate was concentrated. The residue was purified using silica gel (mobile phase: cyclohexane/ethyl acetate gradient: from 4/1 to 1/1). This gave 4.94 g of the target compound (90% pure, 84% of theory).

reactant | 1-(benzyloxy)acetone | 27.79 mmol, 5.07 g | C(C1=CC=CC=C1)OCC(=O)C | C10H12O2
reactant | sodium cyanide | 31.12 mmol, 1.53 g | [C-]#N.[Na+]
reactant | ammonium chloride | 31.12 mmol, 3.71 g | [Cl-].[NH4+]
solvent | ammonia | 2 N, 55.6 ml | N | H3N
solvent | methanol | CO | CH4O
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | ammonia | 2 N, 27.4 ml | N | H3N
product | rac-2-Amino-3-(benzyloxy)-2-methylpropionitrile | NC(C#N)(COCC1=CC=CC=C1)C | C11H14N2O
